US07977351B2
3-(4-Ethyl-4H-thieno[2,3-c]furan-6-ylidene)-5-fluoro-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (91 mg, 0.6 mmol.) in THF (1 mL) is cooled to 0° C. under an Argon atmosphere and treated with a solution of lithium bis(trimethylsilyl)amide (1.2 mL of a 1 M solution in THF, 1.2 mmol) dropwise. The resulting solution is stirred at 0° C. for 10 min and warmed to room temperature. A solution of 4-ethyl-4H-thieno[2,3-c]furan-6-one, (67 mg, 0.4 mmol) in THF (1.5 mL) is added dropwise to the reaction mixture. The resulting solution is stirred for 4 h. The reaction mixture is poured into aqueous 10% HCl solution (50 mL). The resulting mixture is heated to 90° C. for 45 min and stirred at room temperature for 36 h. The precipitate which formed is collected by filtration and dried to give the title compound as a yellow solid (68mg, 57%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 0.6 mmol, 91 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-ethyl-4H-thieno[2,3-c]furan-6-one | 0.4 mmol, 67 mg | C(C)C1C2=C(C(O1)=O)SC=C2 | C8H8O2S
reactant | HCl | 50 mL | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 3-(4-Ethyl-4H-thieno[2,3-c]furan-6-ylidene)-5-fluoro-1,3-dihydro-indol-2-one | 68mg, 57% | C(C)C1C2=C(C(O1)=C1C(NC3=CC=C(C=C13)F)=O)SC=C2 | C16H12FNO2S
